US05120738
Preparation of 3-(N-Linoleoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate
N-(3-Hydroxypropyl)linoleamide (3.38 g) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 15 to obtain of the title compound (yield: 67%)

reactant | N-(3-Hydroxypropyl)linoleamide | 3.38 g | OCCCNC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C21H39NO2
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | 3-(N-Linoleoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate | yield: 67% | CC1(OCC(C(O1)C(=O)NCCC(=O)OCCCNC(CCCCCCC\C=C/C\C=C/CCCCC)=O)(C)C)C | C33H58N2O6
